US07314885B2
5-Trichloroacetyl-1H-pyrrole-3-carbaldehyde:
A solution of 2,2,2-trichloro-1-(1H-pyrrol-2-yl)-ethanone (5.0 g, 23.53 mmol) and AlCl3 (3.8 g, 28.50 mmol) in co-solvents of EDC (20 mL) and MeNO2 (20 mL) was cooled to −10° C. A solution of dichloro-methoxy-methane (3.25 g, 28.27 mmol) in EDC (5 mL) was added fairly rapidly and the mix was then stirred at −10° C. to room temperature for overnight. It was poured over crushed ice, the layer were separated, and the aqueous phase was extracted with CH2Cl2. The combined organic layers were washed, dried over MgSO4, and concentrated, yielding a slightly reddish solid (3.6 g, 64%). 1H NMR (500 MHz, CDCl3) δ10.10 (s, 1H), 10.06 (br, 1H), 7.96 (m, 2H) ppm. MS (ES−): m/e=238 (M−H); LC/Method A/3.15 min.

reactant | 2,2,2-trichloro-1-(1H-pyrrol-2-yl)-ethanone | 23.53 mmol, 5.0 g | ClC(C(=O)C=1NC=CC1)(Cl)Cl | C6H4Cl3NO
reactant | AlCl3 | 28.50 mmol, 3.8 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | MeNO2 | 20 mL | C[N+](=O)[O-] | CH3NO2
reactant | dichloro-methoxy-methane | 28.27 mmol, 3.25 g | ClC(OC)Cl | C2H4Cl2O
solvent | EDC | 5 mL
solvent | EDC | 20 mL
product | 5-Trichloroacetyl-1H-pyrrole-3-carbaldehyde | 3.6 g, 64% | ClC(C(=O)C1=CC(=CN1)C=O)(Cl)Cl | C7H4Cl3NO2
